US07696216B2
B. Synthesis of 1-(2,3-dimethoxy-quinoxalin-6-ylmethyl)-4-(4-isopropyl-phenyl)-6-prop-2-ynyloxy-1H-quinazolin-2-one
To a solution of 52 mg (0.105 mmol) {2-[(2,3-dimethoxy-quinoxalin-6-ylmethyl)-amino]-5-prop-2-ynyloxy-phenyl}-(4-isopropyl-phenyl)-methanone in 1 ml acetic acid is added 14 mg (0.210 mmol) sodium cyanate. After stirring for 2 h the solvent is removed in vacuo and the residue is partitioned between CH2Cl2 and water. The organic layer is extracted with 2 M sodium hydroxide and evaporated. Purification of the crude product by flash-chromatography (ethyl acetate/hexanes 9:1) affords a yellow oil.

reactant | {2-[(2,3-dimethoxy-quinoxalin-6-ylmethyl)-amino]-5-prop-2-ynyloxy-phenyl}-(4-isopropyl-phenyl)-methanone | 0.105 mmol, 52 mg | COC1=NC2=CC=C(C=C2N=C1OC)CNC1=C(C=C(C=C1)OCC#C)C(=O)C1=CC=C(C=C1)C(C)C | C30H29N3O4
reactant | sodium cyanate | 0.210 mmol, 14 mg | [O-]C#N.[Na+]
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | 1-(2,3-dimethoxy-quinoxalin-6-ylmethyl)-4-(4-isopropyl-phenyl)-6-prop-2-ynyloxy-1H-quinazolin-2-one | COC1=NC2=CC=C(C=C2N=C1OC)CN1C(N=C(C2=CC(=CC=C12)OCC#C)C1=CC=C(C=C1)C(C)C)=O | C31H28N4O4
